US06020345
Stage 1: 6-[1,3]dioxolan-2-yl-N-hydroxypyridine-2-carboxamidine
0.88 g of 2-[1,3]dioxolan-2-yl-pyridine-2-carbonitrile (4.99 mmol), 1.74 g of hydroxylamine hydrochloride (25 mmol) and 3.45 g of potassium carbonate (25 mmol) are mixed in 15 ml of ethanol and then the reaction mixture is heated under reflux for 4 hours. After evaporation of the ethanol, the title product is crystallized by addition of water to the residue. 0.80 g of a colorless powder is recovered.

reactant | 2-[1,3]dioxolan-2-yl-pyridine-2-carbonitrile | 4.99 mmol, 0.88 g | O1C(OCC1)C1(NC=CC=C1)C#N | C9H10N2O2
reactant | hydroxylamine hydrochloride | 25 mmol, 1.74 g | Cl.NO
reactant | potassium carbonate | 25 mmol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 6-[1,3]dioxolan-2-yl-N-hydroxypyridine-2-carboxamidine | O1C(OCC1)C1=CC=CC(=N1)C(=N)NO | C9H11N3O3
